US05753664
2-[4-[4-(4-Benzyloxybenzyloxy]benzoyl]benzylthio]-3,5-dimethyl-4(3H)-quinazolinone
A solution of 2-[4-(4-hydroxybenzoyl)benzylthio]-3,5-dimethyl-4(3H)-quinazolinone (309 mg), 4-benzyloxybenzyl chloride (224 mg) and potassium carbonate (295 mg) in DMF (5 ml) was stirred at room temperature for 14 hours. This reaction mixture was concentrated and the residue was dissolved in chloroform. The solution was washed with water, dried, and concentrated. The residue was recrystallized from chloroform-ethyl acetate to provide the title compound as colorless solid (355 mg).

reactant | 2-[4-(4-hydroxybenzoyl)benzylthio]-3,5-dimethyl-4(3H)-quinazolinone | 309 mg | OC1=CC=C(C(=O)C2=CC=C(CSC3=NC4=CC=CC(=C4C(N3C)=O)C)C=C2)C=C1 | C24H20N2O3S
reactant | 4-benzyloxybenzyl chloride | 224 mg | C(C1=CC=CC=C1)OC1=CC=C(CCl)C=C1 | C14H13ClO
reactant | potassium carbonate | 295 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 2-[4-[4-(4-Benzyloxybenzyloxy]benzoyl]benzylthio]-3,5-dimethyl-4(3H)-quinazolinone | 355 mg | C(C1=CC=CC=C1)OC1=CC=C(COC2=CC=C(C(=O)C3=CC=C(CSC4=NC5=CC=CC(=C5C(N4C)=O)C)C=C3)C=C2)C=C1 | C38H32N2O4S
